US05756747
4-amino-2-chloro-3-nitroquinoline (5 g, 0.0224 mol) was combined with ethyl acetate (300 mL), magnesium sulfate (1 g), and 5% Pt/C (0.5 g). The mixture was hydrogenerated on a Parr apparatus until no further uptake of hydrogen was observed. The resulting mixture was filtered and the solvent was removed at reduced pressure to afford a tan solid product 3,4-diamino-2-chloroquinoline.

reactant | 4-amino-2-chloro-3-nitroquinoline | 0.0224 mol, 5 g | NC1=C(C(=NC2=CC=CC=C12)Cl)[N+](=O)[O-] | C9H6ClN3O2
reactant | magnesium sulfate | 1 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | hydrogen | [H][H] | H2
catalyst | Pt/C | 0.5 g | [Pt] | Pt
solvent | ethyl acetate | 300 mL | C(C)(=O)OCC | C4H8O2
product | 3,4-diamino-2-chloroquinoline | NC=1C(=NC2=CC=CC=C2C1N)Cl | C9H8ClN3
